US08809372B2
To a solution of 2-bromothiazole-5-carbaldehyde (5.0 g, 26.04 mmol) in toluene (150 mL) and ethanol (75 mL) was added (4-fluorophenyl)boronic acid (7.29 g, 52.08 mmol), 2M sodium carbonate solution (73.58 mL), Pd(PPh3)4 (1.5 g, 1.3 mmol) under argon atmosphere. The resulting mixture was heated at 85° C. for 6 h. The reaction mixture was concentrated under reduced pressure, the residue was diluted with water (150 mL), and extracted with ethyl acetate (5×500 mL). The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressures to obtain crude product. The crude product was purified by Combiflash® chromatography (Mobile phase: 10% ethyl acetate in hexane) to give 2-(4-fluorophenyl)thiazole-5-carbaldehyde as off-white solid (200 mg, 88% yield). 1H NMR (400 MHz, DMSO-d6): δ 10.06 (s, 1H), 8.74 (s, 1H), 8.14-8.11 (m, 2H), 7.39 (t, 2H); LC-MS m/z calculated for [M+H]+ 208.02, found 207.9.

reactant | 2-bromothiazole-5-carbaldehyde | 26.04 mmol, 5.0 g | BrC=1SC(=CN1)C=O | C4H2BrNOS
reactant | (4-fluorophenyl)boronic acid | 52.08 mmol, 7.29 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 2M, 73.58 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 75 mL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 1.3 mmol, 1.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-fluorophenyl)thiazole-5-carbaldehyde | 200 mg, 88% yield | FC1=CC=C(C=C1)C=1SC(=CN1)C=O | C10H6FNOS
